US04168385
Methyl α-(p-fluorophenyoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate
To a solution of 2.8 g of p-fluorophenol, 1.19 g of sodium methoxide, and 50 mg of potassium iodide in 40 ml of methanol was added 7.62 g of methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate in 10 ml of benzene. The mixture was refluxed overnight and cooled to room temperature. The mixture was poured into 100 ml of water and extracted with 2×75 ml of ether. The combined extracts were washed with 50 ml of 5% NaOH, 2×50 ml of water, 50 ml of saturated brine and dried (MgSO4). Evaporation of the solvent at reduced pressure yielded an amber oil which was chromatographed on 100 g of silica gel (benzene) to yield 6.7 g of an amber oil which solidified on trituration with petroleum ether, mp 70°-72.5° C.

reactant | p-fluorophenol | 2.8 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 7.62 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F | C16H12BrF3O3
reactant | water | 100 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | potassium iodide | 50 mg | [I-].[K+]
product | Methyl α-(p-fluorophenyoxy)-α-[p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | 6.7 g | FC1=CC=C(C=C1)OC(C(=O)OC)C1=CC=C(C=C1)OC=1C=C(C=CC1)C(F)(F)F | C22H16F4O4
